### PR TITLE
refactor: suprema over subtypes

### PR DESCRIPTION
**Pull request by TwoFX**

### CODE REVIEW

File: BrownianMotion/Continuity/Chaining.lean [hunk 1]
```diff
@@ -210,50 +210,37 @@ lemma edist_chainingSequence_pow_two_le {ε₀ : ℝ≥0∞} (hC : ∀ i, IsCove
...
-    ⨆ (s) (t) (_hs : s ∈ C k) (_ht : t ∈ C k) (_h : edist s t ≤ δ), edist (X s) (X t)
-    ≤ (⨆ (s) (t) (hs : s ∈ C k) (ht : t ∈ C k) (_h : edist s t ≤ δ),
-        edist (X (chainingSequence hC hs m)) (X (chainingSequence hC ht m)))
-      + 2 * ⨆ (s) (hs : s ∈ C k), edist (X s) (X (chainingSequence hC hs m)) := by
-  -- We will be using `iSup_add` later, so we need to bundle the suprema so that we only take
-  -- suprema over nonempty index types.
-  rw [iSup₅_eq_iSup₂, iSup₅_eq_iSup₂]
-  conv_rhs => right; right; rw [iSup_subtype']
-
+    ⨆ (s : C k) (t : { t : C k // edist s.1 t.1 ≤ δ }), edist (X s) (X t)
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/Chaining.lean:215]:
```suggestion
    ⨆ (s : C k) (t : { t : C k // edist s t ≤ δ }), edist (X s) (X t)
```

File: BrownianMotion/Continuity/Chaining.lean [hunk 2]
```diff
@@ -210,50 +210,37 @@ lemma edist_chainingSequence_pow_two_le {ε₀ : ℝ≥0∞} (hC : ∀ i, IsCove
...
+    ≤ (⨆ (s : C k) (t : { t : C k // edist s.1 t.1 ≤ δ }),
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/Chaining.lean:216]:
```suggestion
    ≤ (⨆ (s : C k) (t : { t : C k // edist s t ≤ δ }),
```

File: BrownianMotion/Continuity/Chaining.lean [hunk 3]
```diff
@@ -210,50 +210,37 @@ lemma edist_chainingSequence_pow_two_le {ε₀ : ℝ≥0∞} (hC : ∀ i, IsCove
...
+        edist (X (chainingSequence hC s.2 m)) (X (chainingSequence hC t.1.2 m)))
+      + 2 * ⨆ (s : C k), edist (X s) (X (chainingSequence hC s.2 m))
+      := by
   -- Introduce some notation to make the goals easier to read
-  let Ck := { s : E // s ∈ C k }
-  let Ck' (s : Ck) := { t : Ck // edist s.1 t.1 ≤ δ }
-  have (s : Ck) : Nonempty (Ck' s) := ⟨⟨s, by simp⟩⟩
-  let c (s : Ck) := chainingSequence hC s.2 m
+  let Ck' (s : C k) := { t : C k // edist s.1 t.1 ≤ δ }
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/Chaining.lean:221]:
```suggestion
  let Ck' (s : C k) := { t : C k // edist s t ≤ δ }
```

File: BrownianMotion/Continuity/Chaining.lean [hunk 4]
```diff
@@ -272,11 +259,11 @@ lemma scale_change {F : Type*} [PseudoEMetricSpace F] (hC : ∀ i, IsCover (C i)
 
 lemma scale_change_rpow {F : Type*} [PseudoEMetricSpace F] (hC : ∀ i, IsCover (C i) (ε i) A)
     (m : ℕ) (X : E → F) (δ : ℝ≥0∞) (p : ℝ) (hp : 0 ≤ p) :
-    ⨆ (s) (t) (_hs : s ∈ C k) (_ht : t ∈ C k) (_h : edist s t ≤ δ), edist (X s) (X t) ^ p
-    ≤ 2 ^ p * (⨆ (s) (t) (hs : s ∈ C k) (ht : t ∈ C k) (_h : edist s t ≤ δ),
-        edist (X (chainingSequence hC hs m)) (X (chainingSequence hC ht m)) ^ p)
-      + 4 ^ p * (⨆ (s) (hs : s ∈ C k),
-        edist (X s) (X (chainingSequence hC hs m)) ^ p) := by
+    ⨆ (s : C k) (t : { t : C k // edist s.1 t.1 ≤ δ }),
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/Chaining.lean:262]:
```suggestion
    ⨆ (s : C k) (t : { t : C k // edist s t ≤ δ }),
```

File: BrownianMotion/Continuity/Chaining.lean [hunk 5]
```diff
@@ -272,11 +259,11 @@ lemma scale_change {F : Type*} [PseudoEMetricSpace F] (hC : ∀ i, IsCover (C i)
...
+    edist (X s) (X t) ^ p
+    ≤ 2 ^ p * (⨆ (s : C k) (t : { t : C k // edist s.1 t.1 ≤ δ }),
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/Chaining.lean:264]:
```suggestion
    ≤ 2 ^ p * (⨆ (s : C k) (t : { t : C k // edist s t ≤ δ }),
```

**Review by RemyDegenne — APPROVED** [review]
Great, thanks!
